US05434186
Preparation of 3-(3-Ethoxy-3-oxopropyl)-4-hydroxy-δ-oxobenzenepentanoic Acid Ethyl Ester
A mixture of 1.61 g (5.0 mmol) of 3-(3-ethoxy-3-oxopropyl)-4-methoxy-δ-oxobenzenepentanoic acid and 11.56 g (0.1 mol) of pyridine hydrochloride was heated at ca. 240° C. for 1.33 hr. After being cooled to room temperature, the reaction mixture was treated with 100 mL of water and extracted twice with ether and once with ethyl acetate. The organic extracts were processed in the usual manner to give 1.30 g of a tan solid which was dissolved in 120 mL of ethanol. To this solution was slowly added 30 drops of thionyl chloride. The resulting solution was heated at reflux for 7 hr and then kept at room temperature for ca. 65 hr. The solvent was removed in vacuo and the residue was purified by flash chromatography on 100 g of silica gel, eluting with 3:1 hexane-ethyl acetate, to give 1.44 g (85.6%) of the title compound as a light-tan solid, mp 68°-69° C.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-methoxy-δ-oxobenzenepentanoic acid | 5.0 mmol, 1.61 g | C(C)OC(CCC=1C=C(C=CC1OC)C(CCCC(=O)O)=O)=O | C17H22O6
reactant | pyridine hydrochloride | 0.1 mol, 11.56 g | Cl.N1=CC=CC=C1
solvent | water | 100 mL | O | H2O
product | 3-(3-Ethoxy-3-oxopropyl)-4-hydroxy-δ-oxobenzenepentanoic Acid Ethyl Ester | 1.30 g | C(C)OC(CCCC(C1=CC(=C(C=C1)O)CCC(=O)OCC)=O)=O | C18H24O6
